US08686028B2
BF3—OEt2 complex (7 ml, 56 mmol) was gradually added to a solution of 1-(5-chloro-2,4-dihydroxy-phenyl)-2-(2-methoxy-phenyl)-ethanone (4.1 gm, 14 mmol) in DMF at 0° C. The resulting solution was stirred for 30 min. Mesityl chloride (1.5 ml, 42 mmol) was then gradually added to it at 50° C. The solution was then heated up to 110° C. for 5 hours. The mixture was then concentrated. The residue was treated with ice and the solid obtained was purified with silica gel column chromatography using hexane-chloroform as the eluent to give 6-chloro-7-hydroxy-3-(2-methoxy-phenyl)-chromen-4-one (2.5 gm, 60%) as white solid.

reactant | 1-(5-chloro-2,4-dihydroxy-phenyl)-2-(2-methoxy-phenyl)-ethanone | 14 mmol, 4.1 gm | ClC=1C(=CC(=C(C1)C(CC1=C(C=CC=C1)OC)=O)O)O | C15H13ClO4
reactant | Mesityl chloride | 42 mmol, 1.5 ml | C1(=C(C(=CC(=C1)C)C)Cl)C | C9H11Cl
solvent | DMF | CN(C)C=O | C3H7NO
product | 6-chloro-7-hydroxy-3-(2-methoxy-phenyl)-chromen-4-one | 2.5 gm, 60% | ClC=1C=C2C(C(=COC2=CC1O)C1=C(C=CC=C1)OC)=O | C16H11ClO4
